US09079866B2
N-tert-Butyl-3′-fluoro-4′-[1,2,4]triazolo[4,3-a]pyridin-7-ylbiphenyl-2-sulfonamide
To a 20 mL vial were added N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide (45 mg, 0.10 mmol), 7-bromo-[1,2,4]triazolo[4,3-a]pyridine (21 mg, 0.10 mmol) K2CO3 (29 mg, 0.21 mmol), Pd(dppf)Cl2.CH2Cl2 (4 mg, 0.005 mmol), and a stir bar. The vial was sealed with a teflon lined cap and the vial sparged with N2. The vial was then charged with freshly sparged DMSO (2 mL) and stirred for 16 hours at 80° Celsius. The reaction mixture was then cooled to rt, filtered, and purified by HPLC to give the title compound (30 mg, 53%). MS (ESI): mass calcd. for C22H21FN4O2S, 424.14; m/z found, 425.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 9.40 (s, 1H), 8.79 (s, 1H), 8.20-8.11 (m, 2H), 7.77 (m, 1H), 7.70-7.57 (m, 3H), 7.47-7.38 (m, 3H), 1.10 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-[1,1′-biphenyl]-2-sulfonamide | 0.10 mmol, 45 mg | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)F | C22H29BFNO4S
reactant | 7-bromo-[1,2,4]triazolo[4,3-a]pyridine | 0.10 mmol, 21 mg | BrC1=CC=2N(C=C1)C=NN2 | C6H4BrN3
reactant | CH2Cl2 | 0.005 mmol, 4 mg | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-tert-Butyl-3′-fluoro-4′-[1,2,4]triazolo[4,3-a]pyridin-7-ylbiphenyl-2-sulfonamide | 30 mg, 53% | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C1=CC=2N(C=C1)C=NN2)F | C22H21FN4O2S
